US04219679
Example 3 was repeated using 25 grams of 3-nitrophenylacetylene (10% wt. conc.) in methanol in the presence of 16.0 grams of a cobalt polysulfide catalyst prepared as per Example 1. The weight ratio of NPA to Co was 25:1. Reaction was carried out at 120° C., 1000 psig (6.9 MPa) of hydrogen pressure for 0.5 hours. Analysis showed quantitative conversion of feed and a 70% yield of 3-aminophenylacetylene. All byproducts were polymeric and easily separated. The results are summarized in Table 1 below.

reactant | 3-nitrophenylacetylene | 25 grams | [N+](=O)([O-])C=1C=C(C=CC1)C#C | C8H5NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 3-aminophenylacetylene | 70% yield | NC=1C=C(C=CC1)C#C | C8H7N
